data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
5109,5800,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH3:15][NH:16][C:17](=[O:18])[C-:19]([CH3:20])[O+:21]=[C:22]([C:23]([CH3:24])=[O:25])[C:26]([CH3:27])=[O:28]>>[C:1]1(=[O:2])[C@@:3]2([O:4][CH3:5])[C@@:6]([O:7][CH3:8])([C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14])[C:19]([C:17]([NH:16][CH3:15])=[O:18])([CH3:20])[O:21][C:22]2([C:23]([CH3:24])=[O:25])[C:26]([CH3:27])=[O:28],water,298.15,15.731849933026702,-26.183911402216644
2094,2322,[CH3:13][O:14][C:15](=[O:16])[C:17]([C:18]#[N:19])=[NH+:20][C-:21]([C:22](=[O:23])[O:24][CH3:25])[c:26]1[cH:27][cH:28][cH:29][cH:30][cH:31]1.[CH3:1][C:2](=[O:3])[C:4]1([CH3:5])[C:6]#[C:7][CH2:8][CH2:9][CH2:10][CH2:11][CH2:12]1>>[CH3:1][C:2](=[O:3])[C:4]1([CH3:5])[C:6]2=[C:7]([CH2:8][CH2:9][CH2:10][CH2:11][CH2:12]1)[C:17]([C:15]([O:14][CH3:13])=[O:16])([C:18]#[N:19])[NH:20][C:21]2([C:22](=[O:23])[O:24][CH3:25])[c:26]1[cH:27][cH:28][cH:29][cH:30][cH:31]1,water,298.15,17.10636102984322,-34.17544073538087
4170,4773,[CH3:1][C:2]([CH3:3])=[C:4]([CH3:5])[CH3:6].[CH3:7][NH:8][C:9](=[O:10])[CH-:11][NH+:12]=[C:13]([C:14](=[O:15])[O:16][CH3:17])[C:18](=[O:19])[O:20][CH3:21]>>[CH3:1][C:2]1([CH3:3])[C:4]([CH3:5])([CH3:6])[CH:11]([C:9]([NH:8][CH3:7])=[O:10])[NH:12][C:13]1([C:14](=[O:15])[O:16][CH3:17])[C:18](=[O:19])[O:20][CH3:21],water,298.15,28.96553608193108,-15.137993277515768
470,515,[CH3:1][NH:2][C:3](=[O:4])[C:5]#[C:6][Br:7].[CH3:8][O:9][C:10](=[O:11])[C-:12]([C:13]#[N:14])[N+:15]#[C:16][C:17]#[N:18]>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([Br:7])[C:12]([C:10]([O:9][CH3:8])=[O:11])([C:13]#[N:14])[N:15]=[C:16]1[C:17]#[N:18],water,298.15,17.36705546087319,-62.51281660370177
3231,3648,[CH3:10][C:11]#[N+:12][N-:13][C:14]([CH3:15])=[O:16].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]1([CH3:8])[CH2:9][N:13]([C:14]([CH3:15])=[O:16])[N:12]=[C:11]1[CH3:10],water,298.15,25.69143010875409,-32.368952324537624
2671,2967,[CH3:1][C:2](=[O:3])/[C:4](=[C:5](\[C:6]([CH3:7])=[O:8])[c:9]1[cH:10][cH:11][cH:12][cH:13][cH:14]1)[c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1.[CH3:21][NH:22][C:23](=[O:24])[C-:25]([O+:26]=[C:27]([CH3:28])[c:29]1[cH:30][cH:31][cH:32][cH:33][cH:34]1)[C:35](=[O:36])[NH:37][CH3:38]>>[CH3:1][C:2](=[O:3])[C@@:4]1([c:15]2[cH:16][cH:17][cH:18][cH:19][cH:20]2)[C@:5]([C:6]([CH3:7])=[O:8])([c:9]2[cH:10][cH:11][cH:12][cH:13][cH:14]2)[C:25]([C:23]([NH:22][CH3:21])=[O:24])([C:35](=[O:36])[NH:37][CH3:38])[O:26][C:27]1([CH3:28])[c:29]1[cH:30][cH:31][cH:32][cH:33][cH:34]1,water,298.15,36.10576944659203,0.8327827859490069
1311,1438,[CH3:16][NH:17][C:18](=[O:19])[C:20]([C:21]#[N:22])=[NH+:23][CH-:24][C:25]#[N:26].[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([C:7]([F:8])([F:9])[F:10])[CH:11]2[CH:12]=[CH:13][CH:14]1[O:15]2>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([C:7]([F:8])([F:9])[F:10])[CH:11]2[CH:12]3[CH:13]([CH:14]1[O:15]2)[CH:24]([C:25]#[N:26])[NH:23][C:20]3([C:18]([NH:17][CH3:16])=[O:19])[C:21]#[N:22],water,298.15,11.867630885966252,-43.68599942635053
3650,4170,[CH3:1][C:2]([CH3:3])=[CH:4][CH:5]=[O:6].[CH3:7][C:8](=[O:9])[c:10]1[o:11][c:12](=[O:13])[c-:14]([C:15]([CH3:16])=[O:17])[n+:18]1[CH3:19]>>[CH3:1][C:2]1([CH3:3])[CH:4]([CH:5]=[O:6])[C:10]2([C:8]([CH3:7])=[O:9])[O:11][C:12](=[O:13])[C:14]1([C:15]([CH3:16])=[O:17])[N:18]2[CH3:19],water,298.15,29.92649395086093,9.147768817981722
4103,4696,[CH3:1][C:2]([CH3:3])=[CH:4][CH:5]=[O:6].[CH3:7][NH:8][C:9](=[O:10])[C:11]#[N+:12][C-:13]([C:14]([CH3:15])=[O:16])[c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1>>[CH3:1][C:2]1([CH3:3])[CH:4]([CH:5]=[O:6])[C:11]([C:9]([NH:8][CH3:7])=[O:10])=[N:12][C:13]1([C:14]([CH3:15])=[O:16])[c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1,water,298.15,15.708614476653064,-29.1492855000308
4999,5687,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH3:15][O:16][C:17](=[O:18])[C:19](=[NH+:20][C-:21]([CH3:22])[C:23]#[N:24])[C:25]([CH3:26])=[O:27]>>[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C@@:11]2([CH3:12])[C@:13]1([CH3:14])[C:21]([CH3:22])([C:23]#[N:24])[NH:20][C:19]2([C:17]([O:16][CH3:15])=[O:18])[C:25]([CH3:26])=[O:27],water,298.15,24.92934794313496,-0.9745842604174572
3504,3996,[CH3:1]/[CH:2]=[CH:3]/[CH3:4].[CH3:5][NH:6][C:7](=[O:8])[c-:9]1[o+:10][c:11]([C:12](=[O:13])[O:14][CH3:15])[o:16][c:17]1=[O:18]>>[CH3:1][C@H:2]1[C@H:3]([CH3:4])[C:9]2([C:7]([NH:6][CH3:5])=[O:8])[O:10][C:11]1([C:12](=[O:13])[O:14][CH3:15])[O:16][C:17]2=[O:18],water,298.15,11.681120939133384,-29.10342144395113
